US07335660B2
b) 3-((3R)-4-{2-[(1S)-6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl}-3-methylpiperazinyl)-1-benzothiophene-6-carbonitrile
The title compound was prepared from 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethyl methanesulfonate and (3R)-1-(6-cyano-1-benzothien-3-yl)-3-methylpiperazine, as described for Example 1b).

reactant | 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)Br | C12H15BrO4S
reactant | (3R)-1-(6-cyano-1-benzothien-3-yl)-3-methylpiperazine | C(#N)C1=CC2=C(C(=CS2)N2C[C@H](NCC2)C)C=C1 | C14H15N3S
product | 3-((3R)-4-{2-[(1S)-6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl}-3-methylpiperazinyl)-1-benzothiophene-6-carbonitrile | BrC=1C=CC2=C(CCO[C@H]2CCN2[C@@H](CN(CC2)C2=CSC3=C2C=CC(=C3)C#N)C)C1 | C25H26BrN3OS
